US09334286B2
Preparation 113: (3-Ethoxy-4-nitrophenyl) (3-methoxyazetidin-1-yl)methanone
A mixture of (3-hydroxy-4-nitrophenyl)(3-methoxyazetidin-1-yl)methanone (Preparation 115, 250 mg, 1.007 mmol), iodoethane (185 mg, 1.208 mmol) and potassium carbonate (278 mg, 2.014 mmol) in DMF (10 mL) was stirred at room temperature for 2 hours. The reaction was filtered and the filtrate diluted with ethyl acetate (60 mL). The organic phase was washed with water (20 mL×2), brine (20 mL) and dried over sodium sulphate. The solvent was concentrated in vacuo and the residue purified by silica gel column chromatography eluting with 20% hexane in ethyl acetate to afford the title compound as a yellow powder (230 mg, 84%).

reactant | (3-hydroxy-4-nitrophenyl)(3-methoxyazetidin-1-yl)methanone | 1.007 mmol, 250 mg | OC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CC(C1)OC | C11H12N2O5
reactant | iodoethane | 1.208 mmol, 185 mg | ICC | C2H5I
reactant | potassium carbonate | 2.014 mmol, 278 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (3-Ethoxy-4-nitrophenyl) (3-methoxyazetidin-1-yl)methanone | 230 mg, 84% | C(C)OC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CC(C1)OC | C13H16N2O5
